US09101616B2
Step-1: 2,6-dimethyl-3-(2,2,2-trifluoroethoxy)pyridine
To a suspension of 2,6-dimethylpyridin-3-ol (5.0 g, 41 mmol) and cesium carbonate (15 g, 47 mmol) in DMF (50 mL) was added 2,2,2-trifluoroethyl trifluoromethane-sulfonate (11 mL, 47 mmol) dropwise. The reaction mixture was stirred at room temperature for 1 hour. After being stirred at room temperature for 18 hours, the mixture was poured into H2O, and the aqueous phase was extracted with ethyl acetate (twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to give 8.3 g (quantitative yield) of the title compound as a brown oil:

reactant | 2,6-dimethylpyridin-3-ol | 41 mmol, 5.0 g | CC1=NC(=CC=C1O)C | C7H9NO
reactant | cesium carbonate | 47 mmol, 15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl trifluoromethane-sulfonate | 47 mmol, 11 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | H2O | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2,6-dimethyl-3-(2,2,2-trifluoroethoxy)pyridine | 8.3 g, quantitative yield | CC1=NC(=CC=C1OCC(F)(F)F)C | C9H10F3NO
